2149-01-23 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2149-1-22**] 04:30 PM
   r/o endocarditis
 BLOOD CULTURED - At [**2149-1-23**] 02:53 AM
   [**2149-1-22**] Events:
   - Continues to be hypoxic, no carboxyhemoglobin, meth-hemoglobin, put
   on face mask with good O2 sats to 95%, unclear etiology of hypoxia
   - BNP elevated, given Echo shows normal EF with moderately dilated RA,
   mildly dilated LA.  Stopped IV fluids started for post CT hydration
   - NPO for TEE in AM
   - Hyponatremia improved, most likely not related to hypovolemia
   - ID would like to try Nafcillin desensitization, however not if the
   patient will have to go to surgery, but should consider in the future.
   - PICC in AM if afebrile
   - Requires high narcotic doses, consider PCA in AM
   Allergies:
   Nafcillin Sodium
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2149-1-23**] 04:11 AM
   Meropenem - [**2149-1-23**] 06:29 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2149-1-22**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-23**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 91 (83 - 92) bpm
   BP: 136/68(51) {112/53(51) - 155/83(96)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,148 mL
                                                                    547 mL
   PO:
                                                                     60 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,088 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    650 mL
   Urine:
                                                                  1,200 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -52 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.40/48/62/28/3
   PaO2 / FiO2: 65
   Physical Examination
   GENERAL: Looks well/mildly uncomfortable and clearly minimizing head
   movements. No apparent respiratory distress.
   HEENT: Pupils minimally reactive (2mm at baseline). No oral lesions or
   erythema. Mildly dry MM.
   NECK: Limited ROM with only [**5-4**] degrees left and right turning; can
   almost put chin to chest and has difficulty tilting back w/ pain
   throughout motion. no JVD.
   CARDIAC: Regular rate and rhythm. +S4 appreciated at the LLSB. No
   murmurs or rubs.
   LUNG: CTAB. no c/r/w
   ABDOMEN: Soft, nontender, nondistended. Normoactive bowel sounds.
   EXT: WWP. No edema. Multiple bony nodules on feet. No oslers or [**Last Name (un) **]
   lesions noted. No splinter hemangiomas. Nontender errythema on R elbow
   surrounding previous surgical scar.
   NEURO: CNII-XII intact. Strength 5/5 in all four extremities. Sensation
   intact though feels "different" on right arm/leg and torso w/ pt
   describing increased "irritation" w/ light tough extending from the R
   trapezius to the R foot and stopping at the midline. Normal rectal tone
   found at nightfloat admission. Patellar and brachial reflexes 1+ and
   equal. Brudzinski and Kernig were negative.
   BACK: Multiple well healed surgical scars noted along spine. No
   spinal/perispinal tenderness to palpation or percussion.
   DERM: Echymosis just above sacrum.
   Labs / Radiology
   209 K/uL
   8.2 g/dL
   128 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.7 mEq/L
   16 mg/dL
   95 mEq/L
   131 mEq/L
   24.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2149-1-22**]  04:32 PM
                             [**2149-1-22**]  08:33 PM
                             [**2149-1-23**]  02:25 AM
   WBC
   11.7
   Hct
   27
   24.7
   Plt
   209
   Cr
   1.3
   1.2
   TCO2
   31
   Glucose
   119
   128
   Other labs: PT / PTT / INR:14.3/25.5/1.2, ALT / AST:34/23, Alk Phos / T
   Bili:349/0.6, Differential-Neuts:85.5 %, Lymph:8.5 %, Mono:4.1 %,
   Eos:1.7 %, Lactic Acid:0.8 mmol/L, LDH:222 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   52M with history of multiple MSSA infections, now with GPC bacteremia
   and neck pain.
   .
   1. Bacteremia. High-grade given that 2/2 bottles turned positive rather
   quickly. Unclear what the source is. MRI showed fluid collections
   around L4/5 similar to those seen last [**Month (only) 705**] just prior to his last
   admission for his abscesses but w/o clear signs of abscess. Hx for neck
   pain, mild HA, and fevers raises concern for meningitis, though he
   looks unusually well for this to be bact meningitis and
   Brudzinski/Kernig were neg. LP was not done in the ED given MR results
   and concern for spinal infection possible seeding into CSF with LP.
   Ceftriaxone and vanc were started in ED at meningitis doses.
   Endocarditis is also concerning given the history of valvular disease
   (through no clear murmur noted). Incomplete treatment of/recurrent
   osteomyelitis is also likely though pt had been on cefazolin for 8wks
   following prior admission ([**8-2**])
   - Repeat blood cultures.
   - Continue vancomycin given positive cultures; if returns MSSA can
   switch to better [**Doctor Last Name **] for sensitive staph (has received cephalosporins
   in the past)
   - f/u ID recs re LP recs and utility -> would need to do via IR given
   MR [**First Name (Titles) **] [**Last Name (Titles) 7704**]
   - f/u MRI to determine if there is a clear source in spine; appreciate
   spine recs
   - f/u TTE
   - consider head MR (+/- contrast) given paraesthesias (see below)
   .
   2. Neck pain. Has had recurrent neck pain since initial hosp in [**March 2148**]. intensive PT has improved function/strength until recently.
   Limited ROM new to current presentation. Managed now on 8mg morphine
   Q4h. Given hx, concerning for recurrent epidural abscess.
   Trauma/compression fx also possible in light of previous C-spine
   disease. MSK etiology possible given intensive PT regimen and recent
   history of fall.
   - Hold NSAIDs given ARF
   - Morphine PRN
   - f/u final read of C-spine MR
   .
   3. Paraesthesia. Possibly related to fall and/or known cervical
   disease. Other than subjective difference in sensation, exam is
   generally unremarkable with good strength. Concerning for peripheral
   (i.e c-spine stenosis/nerve compression) vs. central etiologies
   (infarct/abscess). Given apparent involvement of entire R side and hx,
   particularly concerned about a central process such as brain abscesses
   - f/u C-spine final read
   - head MR (+/- contrast) to assess brain lesion (infarct/abscess)
   .
   4. Anemia. Mildly microcytic and stable in the high 20s (baseline).
   Most recent ferritin was greater than assay making iron deficiency less
   likely. Chronic inflammation seems likely cause in this patient.
   - Follow daily hct
   .
   5. Acute renal failure. SCr up to 1.3 from baseline of 1.0. Has been
   taking NSAIDs. in past has received hemodyalysis for Cr [**5-1**].
   - Hold NSAIDs
   - Encourage PO
   - Check urine/serum 'lytes daily
   .
   6. Hyperglycemia. BS elevated on prior admissions but not on therapy.
   - If persists, will start HISS
   .
   7. Hypertension. Continue home dose metoprolol.
   .
   8. GERD. Continue Prilosec.
   .
   FEN: Regular diet.
   PPX: PPI, heparin SQ
   ACCESS: PIV
   Comm: w/ pt
   Dispo: pending clinical improvement
 .H/O ENDOCARDITIS, BACTERIAL
 HYPOXEMIA
 .H/O EPIDUARL ABSCESS
 ACUTE PAIN
 BACTEREMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-1-22**] 02:32 PM
   18 Gauge - [**2149-1-22**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-01-24 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Veg on native valve with prosthetic annular ring
   -good output to lasix diuresis, repeated 40 IV in PM
   -Extubated without difficulty
   -ID rec-gent started
   -PM lytes-hyponatremia, on diet with fluid restriction
   -Ortho rec-no recs
   -Daily EKG
   Allergies:
   Nafcillin Sodium
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2149-1-23**] 11:33 AM
   Gentamicin - [**2149-1-23**] 05:00 PM
   Cefazolin - [**2149-1-24**] 03:38 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2149-1-23**] 12:04 PM
   Heparin Sodium (Prophylaxis) - [**2149-1-23**] 08:00 PM
   Furosemide (Lasix) - [**2149-1-23**] 10:00 PM
   Morphine Sulfate - [**2149-1-24**] 03:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-24**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.5
C (99.5
   HR: 94 (73 - 99) bpm
   BP: 129/64(80) {86/41(57) - 136/78(84)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,480 mL
                                                                    100 mL
   PO:
                                                                    380 mL
             TF:
   IVF:
                                                                  1,100 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  4,335 mL
                                                                  1,550 mL
   Urine:
                                                                  4,335 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,855 mL
                                                                 -1,450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 730 (730 - 730) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///28/
   Ve: 13.5 L/min
   Physical Examination
   GENERAL: Looks well/mildly uncomfortable and clearly minimizing head
   movements. No apparent respiratory distress.
   HEENT: PERRLA. No oral lesions or erythema. MMM
   NECK: Limited ROM. no JVD.
   CARDIAC: Regular rate and rhythm. +S4 appreciated at the LLSB.  [**2-28**]
   systolic murmur
   LUNG: CTAB. no c/r/w
   ABDOMEN: Soft, nontender, nondistended. Normoactive bowel sounds.
   EXT: WWP. No edema. Multiple bony nodules on feet.  Continued septic
   emboli on right second toe, painful to palpation
   NEURO: CNII-XII intact. Strength 5/5 in all four extremities.
   BACK: Multiple well healed surgical scars noted along spine. No
   spinal/perispinal tenderness to palpation or percussion.
   DERM: Echymosis just above sacrum.
   Labs / Radiology
   275 K/uL
   8.9 g/dL
   132 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.7 mEq/L
   18 mg/dL
   90 mEq/L
   130 mEq/L
   26.5 %
   11.3 K/uL
        [image002.jpg]
                             [**2149-1-22**]  04:32 PM
                             [**2149-1-22**]  08:33 PM
                             [**2149-1-23**]  02:25 AM
                             [**2149-1-23**]  03:37 PM
                             [**2149-1-24**]  05:26 AM
   WBC
   11.7
   11.3
   Hct
   27
   24.7
   26.5
   Plt
   209
   275
   Cr
   1.3
   1.2
   1.3
   1.2
   TCO2
   31
   Glucose
   119
   128
   103
   132
   Other labs: PT / PTT / INR:15.3/25.7/1.3, ALT / AST:34/23, Alk Phos / T
   Bili:349/0.6, Differential-Neuts:85.5 %, Lymph:8.5 %, Mono:4.1 %,
   Eos:1.7 %, Lactic Acid:0.8 mmol/L, LDH:222 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**1-23**]:
   PFI: Progression in right lung opacity which likely represents
   pneumonia.
   Endotracheal tube should be advanced 2 cm for more optimal positioning
   Echo [**1-23**]:
   No atrial septal defect. (LVEF>55%). Aortic valve leaflets (3)
   normal,no masses or vegetations, no aortic regurgitation.
   Mitral valve leaflets are mildly thickened. Mitral annuloplasty ring
   with slightly high-than-normal gradient (mean, 7 mmHg). Mitral valve
   vegetation (1.0 x 0.5 cm) is seen, likely attaching to the anterior
   leaflet. Cine loop #78, #80. Trivial MR, no pericardial effusion.
   IMPRESSION: Moderate-sized mitral valve vegetation without significant
   mitral regurgitation. No abscess seen.
   Microbiology: Blood Culture, Routine (Final [**2149-1-23**]):
         STAPH AUREUS COAG +.    FINAL SENSITIVITIES.
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------<=0.12 S
   OXACILLIN-------------   0.5 S
   PENICILLIN G---------- =>0.5 R
   TRIMETHOPRIM/SULFA---- <=0.5 S
   Assessment and Plan
   52M with history of multiple MSSA infections, now with MSSA
   Endocarditis and neck pain.
   # Hypoxia:  Appears to be secondary to shunt physiology, most likely
   secondary to septic emboli from likely progressive endocarditis given
   new evidence off septic emboli this AM.
   -Will work up bacteremia as below
   -          Consider diureses today with IV lasix today, goal 2L
   negative
   # Endocarditis.   High-grade MSSA.  Vegitations on Mitral Valve per
   TEE.
   - Repeat blood cultures daily
   - Continue gentamicin and cefazolin per ID
   - f/u ID recs
   - f/u ortho recs regarding spinal osteo
   # Neck pain/Paraesthesia:   Ortho consulted likely secondary to chronic
   degenerative C-spine disease.
   - Hold NSAIDs given ARF
   - Morphine and oxycodone PRN, if not well controlled, consider using
   PCA
   - Lidocaine patch to neck today
   - Monitor neuro exams
   # Hyponatremia:  Likely secondary to either SIADH in the setting of
   pain and pulmonary process or hypervolemic hyponatremia in the setting
   of CHF.
   -          Received fluid bolus yesterday and worsened, will volume
   restrict and diurese now
   #. Anemia:  Mildly microcytic and stable in the high 20s (baseline).
   Most recent ferritin was greater than assay making iron deficiency less
   likely. Chronic inflammation seems likely cause in this patient.
   - Follow daily hct
   # Acute renal failure. SCr up to 1.3 from baseline of 1.0. Has been
   taking NSAIDs. in past has received hemodyalysis for Cr [**5-1**].
   - Hold NSAIDs
   - Encourage PO
   - Check urine/serum 'lytes daily
   #. Hyperglycemia. BS elevated on prior admissions but not on therapy.
   - If persists, will start HISS
   #. Hypertension. Continue home dose metoprolol.
   #. GERD. Continue Prilosec.
   FEN: Regular Diet, Lytes PRN
   PPX: PPI, heparin SQ
   ACCESS: PIV, consider PICC if does not need to go to the OR
   Comm: w/ pt
   Dispo: Call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-1-23**] 10:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: